US04062966
A solution of 1-(2,4-dichloro-phenyl)-2-(1-imidazolyl) ethanol (1.5 g, 5.8mmole) dissolved in dry tetrahydrofuran (10 ml) was added to a stirred suspension of sodium hydride (0.39 g, as 80% dispersion in oil, 16 mmole) in dry tetrahydrofuran (10 ml) and warmed to 70° C for 90 minutes. The mixture was cooled in ice and a solution of 2-chloromethyl-thiophene (1.16 g, 8.8 mmole) in dry tetrahydrofuran was added. The mixture was heated at 70° for 3 hours and allowed to stir at room temperature overnight. The solvent was removed under vacuum and the residue stirred with dry ether (200 ml). The ether solution was filtered through celite and saturated with hydrogen chloride gas to precipitate an oil which was solidified by trituration with ether and ethylacetate. The solid product was collected and recrystallized from a mixture of acetone and di-isopropyl ether to give 1-[2,4-dichloro-β-(2-thienylmethoxy)phenethyl]imidazole hydrochloride as fine white crystals (0.63 g, 31%) m.p. 153°-154° C. (Found: C, 49.2; H, 3.8; N, 7.3. C16H14Cl2N2OS.HCl requires C, 49.3; H, 3.9; N, 7.2%).

reactant | 1-(2,4-dichloro-phenyl)-2-(1-imidazolyl) ethanol | 5.8mmole, 1.5 g | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)O | C11H10Cl2N2O
reactant | sodium hydride | 16 mmole, 0.39 g | [H-].[Na+]
reactant | 2-chloromethyl-thiophene | 8.8 mmole, 1.16 g | ClCC=1SC=CC1 | C5H5ClS
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-[2,4-dichloro-β-(2-thienylmethoxy)phenethyl]imidazole hydrochloride | 0.63 g, 31% | Cl.ClC1=C(C(CN2C=NC=C2)OCC=2SC=CC2)C=CC(=C1)Cl | InChI=1S/C16H14Cl2N2OS.ClH/c17-12-3-4-14(15(18)8-12)16(9-20-6-5-19-11-20)21-10-13-2-1-7-22-13;/h1-8,11,16H,9-10H2;1H
